US07122580B2
(2S)-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid
Reductive amination was carried out using (2S)-(2-amino-5-chloro-benzoylamino)-3-(4′-cyclohexyl-biphenyl-4-yl)propionic acid methyl ester (123 mg, 0.25 mmol), 3-(4-tert-butyl-phenoxy)-benzaldehyde (130 mg, 98%, 0.5 mmol), acetic acid (0.7 mmol), sodium triacetoxyborohydride (131 mg, 97%, 0.6 mmol) and DCE (2.5 mL). The mixture was stirred for 7 h. Purification by flash chromatography (ethyl acetate/hexanes 1:9) gave the title compound as colorless oil (139 mg, 0.19 mmol, 76% yield).

reactant | (2S)-(2-amino-5-chloro-benzoylamino)-3-(4′-cyclohexyl-biphenyl-4-yl)propionic acid methyl ester | 0.25 mmol, 123 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C29H31ClN2O3
reactant | 3-(4-tert-butyl-phenoxy)-benzaldehyde | 0.5 mmol, 130 mg | C(C)(C)(C)C1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C17H18O2
reactant | acetic acid | 0.7 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.6 mmol, 131 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 2.5 mL | ClCCCl | C2H4Cl2
product | (2S)-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid | 0.19 mmol, 139 mg, 76% yield | C(C)(C)(C)C1=CC=C(OC=2C=C(CNC3=C(C(=O)N[C@H](C(=O)O)CC4=CC=C(C=C4)C4=CC=C(C=C4)C4CCCCC4)C=C(C=C3)Cl)C=CC2)C=C1 | C45H47ClN2O4
